2156-09-26 08:35:00 Physician Attending Progress Note
Chief Complaint: Fall
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   63M with h/o HIV, recent CD4 131 ([**Month (only) **]), VL < 48, cryptogenic
   cirrhosis, recurrent syncope and multiple falls, presented
   post-witnessed fall in street.  Does not recall event.  In ED, AF, HR
   70, BP 103/78, RR 23, 97% on 2L, got Td, keppra, zofran, EKG c
   dysrhythmia (sinus pauses), FAST negative, CT imaging R SDH, bilateral
   epidural hematomas and b/l parenchymal hemorrhages - per neurosurg, no
   OR needed.  Rib fx on CTA (one new).
   24 Hour Events:
 BLOOD CULTURED - At [**2156-9-26**] 12:12 AM
   - Got plts per neurosurg
   Patient unable to provide history: confused
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Keppra
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-26**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 69 (64 - 70) bpm
   BP: 98/51(62) {67/49(53) - 111/72(96)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,000 mL
                                                                  1,173 mL
   PO:
           TF:
   IVF:
   874 mL
   Blood products:
   299 mL
   Total out:
                                                                  1,010 mL
                                                                    425 mL
   Urine:
                                                                  1,010 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,990 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GEN:  Awake, alert, oriented to self, place, year
   HEENT: PERRL, EOMI
   PULM: CTAB
   CV:  Reg, no M
   ABD:  NABS, soft, NT, ND
   EXT: No edema
   NEURO:  CN intact, R pronator drift, toes downgoing b/l, mild
   dysmetria, R>L, mild RLE weakness (though chronic per pt).
   Labs / Radiology
   10.1 g/dL
   141 K/uL
   123 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   17 mg/dL
   109 mEq/L
   137 mEq/L
   31.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
   WBC
   5.3
   Hct
   31.5
   Plt
   141
   Cr
   1.1
   TropT
   <0.01
   Glucose
   123
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:188/5/<0.01, Differential-Neuts:68.7 %, Lymph:22.8 %,
   Mono:8.1 %, Eos:0.3 %, Lactic Acid:2.0 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: Tilt table [**2156**]: abnormal
   TTE: no valvular disease
   Imaging: CT s contrast:  R epidural hematoma, with R temporal bone fx
   fracture, b/l SAD, b/l parenchymal hemorrhage.  Repeat CT: relative
   stability R hematoma, parenchymal bleeds increasing.  CTA chest with L
   posterior 9th rib fx new, 4th fx old.   CXR today: without pulm edema,
   infiltrates, no change from prior.
   ECG: Last pm:  Sinus 56, occasional sinus pauses, junctional beats,
   non-spec TW flattening.
   Assessment and Plan  63M, HIV, cirrhosis, frequent syncope/falls, found
   to have ICH.
 INTRACEREBRAL HEMORRHAGE (ICH): b/l SDH, epidural hem R (stable), b/l
   parenchymal hem (increasing)
   - Repeat head CT noon
   -Need to discuss ongoing plan with neurosurg re: mannitol, surgical
   managmenet.
   -Cont keppra for SZ prophylaxis
   -NPO currently
   -Neuro checks q2h
   - Will determine if any further mgmt needed for R temp bone fracture (?
   Optho)
   - Holding neuropsych meds, oxycodone, ASA
 SYNCOPE: known orthostasis, possible sx brady, likely gait
   instability from R hip, peripheral neuropathy
 elevated Cr c/w
   possible poor PO intake prior to fall
   - Repeat TTE, continue telemetry, cardiac enzymes negative thus far,
   holding nadolol
   - We
ll check carotid non-invasives
   Hct
 8 pt drop from baseline
 CNS bleed, plus IVF
 will check [**Hospital1 **],
   guaiac.
   HIV:  Will resume HAART, bactrim when NPO d/c
   Resolved:
   Elevated lactate (2.0):  on metformin and tenofovir, which may cause
   since normalized.
   ARF:  Now resolved with fluids.
   ICU Care
   Nutrition:  NPO for now.
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  nothing now
   VAP:
   Comments:
   Communication:  Comments:  Brother is HCP, aware that he is here.
   Code status:
   Disposition :
   Total time spent:

2156-09-27 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2156-9-27**] 12:30 AM
   restarted some meds including HAART and Bactrim
   Had worsening respiratory distress and back pain at midnight. Advanced
   to nonrebreather-sats 96%. EKG w/o changes. BP's equal in both arms.
   Shot repeat CXR with bilateral infiltrates. ? pulmonary edema vs TRALI
   vs aspiration.
   -Gave lasix 40IV. Put out 300cc and still going.
   - Gave nebs with minimal improvement
   - Tried [**1-23**] in nitro paste
   - Morphine 6mg total IV
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2156-9-27**] 12:50 AM
   Furosemide (Lasix) - [**2156-9-27**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: Back pain
   Flowsheet Data as of  [**2156-9-27**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 60 (52 - 64) bpm
   BP: 108/57(70) {105/54(66) - 148/102(106)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,183 mL
                                                                     65 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  2,164 mL
                                                                     65 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                  1,171 mL
                                                                  2,725 mL
   Urine:
                                                                  1,171 mL
                                                                  2,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,012 mL
                                                                 -2,660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   10.8 g/dL
   128 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   19 mg/dL
   102 mEq/L
   133 mEq/L
   33.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
                             [**2156-9-26**]  07:44 AM
                             [**2156-9-26**]  03:51 PM
                             [**2156-9-27**]  03:23 AM
   WBC
   5.3
   6.0
   6.8
   Hct
   31.5
   32.8
   33.0
   Plt
   141
   134
   151
   Cr
   1.1
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   123
   128
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:173/4/<0.01, Differential-Neuts:68.7 %, Lymph:22.8 %,
   Mono:8.1 %, Eos:0.3 %, Lactic Acid:2.0 mmol/L, LDH:265 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Imaging: CT head (3rd): Overall similar appearance to epidural
   hemorrhage and
   intraparenchymal hemorrhage in bilateral frontal lobes greater in the
   left.
   CXR: bilateral pulmonary infiltrates
   ECG: NSR, no acute changes
   Assessment and Plan
 PULMONARY EDEMA
 INTRACEREBRAL HEMORRHAGE (ICH)
 SYNCOPE
   63 year old man with HIV, cryptogenic cirrhosis, hx of frequent syncope
   with an extensive workup and multiple falls presents after witnessed
   fall on street, found to have SDH, EDH on CT head.
   # Hypoxemia: O/N with respiratory distress and bilateral infiltrates on
   CXR, now more focused on left periphery. Unclear etiology. Diff
   includes pulmonary edema vs. aspiration vs TRALI from transfusion of
   platelets none of which seem likely, though responded well to diuresis
   and weaned down from nonrebreather to 4L NC, but now sats in low 90s.
   PCP is possible etiology though unlikely given rapid onset of symptoms
   and improvement with diuresis. Also on bactrim PPX. Lastly PE was
   considered, but no tachycardia on tele and CTA PE day prior was
   negative.  Now also concern for pneumo or bleeding from rib fracture on
   cxr.
   - chest CT to evaluate for right lung process
   - continue to monitor sats
   - lasix 20mg IV x 1
   - nitropaste prn
   - monitor I/O's
   - repeat CXR
   # Intracranial hemorrhage: No progression of bleed per imaging. Head CT
   now stable
   - Appreciate neuro recs
   - Q shift  neuro checks
   - ADAT
   - Bedrest
   - Continue keppra 500 [**Hospital1 **] for sz ppx
   # RUQ pain: concern for pumonary/rib pain vs galllbladder issue
   - RUQ ultrasound
   - chest CT
   - pain meds as needed
   # Syncope: Differential includes symptomatic bradycardia, orthostasis,
   mechanical fall. Difficult to separate these as pt currently does not
   remember fall and states that he was at home. Prior workups for syncope
   revealed abnormal tilt table testing (notable for orthostasis) as well
   as concern by neurology that pt has peripheral neuropathy as well as
   mechanical risk for syncope due to pain from right hip. Given pt's
   pulmonary hypertension on old ECHO, there is some concern for syncope
   secondary to pulmonary hypertension. Echo from [**3-29**] showed no evidence
   of valvular disease to provoke syncope.
   - repeat ECHO
   - Tele- no events
   - ROMI- negative
   - Hold nadolol as bradycardic
   # Lactic acidosis: improved
   # Temporal bone Fracture: evaluate CT head
   - discuss with either ophtho vs plastics
   # ARF: Cr at 1.5 up from baseline 0.9. Suspect prerena. Now improved to
   1.
   # HIV:
   - Contine HAART
   - Continue bactrim for PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] recheck HIV labs
   # Psych meds:
   - hold psych meds to pervent sedation
   # CV risk: Hold all PO meds tonight. No ST changes on EKG, no CP.
   - Hold ASA given bleed
   - Restart lipitor
   - Hold nadolol if remains bradycardic
   # Chronic R hip pain: Restarted pain meds
   .
   FEN: IVF, clears
   .
   Prophylaxis: p boots
   .
   Access: peripherals
   .
   Code:  Full; [**Name (NI) 356**] [**Name (NI) **] brother, [**Telephone/Fax (1) 8099**]; cell [**Telephone/Fax (1) 8100**].
   [**First Name4 (NamePattern1) 8101**] [**Known lastname **] (other brother) [**Telephone/Fax (1) 8102**] (both notified)
   .
   Communication: Patient
   .
   Disposition: ICU for now
   ICU Care
   Nutrition: advancing diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU for now

2156-09-27 10:42:00 Physician Attending Progress Note
Chief Complaint: Falls
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63M with AIDS, on HAART, cryptogenic cirrhosis, frequent syncopal
   episodes, a/w fall, SDH, epidural and intraparenchymal bleeds and
   temporal fx.
   24 Hour Events:
 EKG - At [**2156-9-27**] 12:30 AM
   - Yesterday, had serial head CT scans - initially intraparenchymal
   progressive, now stable.
   - 8pm: had mild hypoxemia, with O2 requirement of a couple L NC, CXR
   with ? pulm edema, cardiac enzymes negative.
   - Midnight:  hypoxemic, diaphoretic, holding chest, writhing, lower
   back pain (R-sided) - on NRB transiently with O2 sats 94%, repeat CXR,
   worsening bilateral fluffy infiltrates, possible pulm edema --> trial
   lasix 40 IV, nitropaste, morphine for back pain -->  good UOP, and then
   felt better (unclear if related to diuresis or morphine).
   - Currently on 2L NC, with fluctuating O2 sat
                         History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2156-9-27**] 12:50 AM
   Furosemide (Lasix) - [**2156-9-27**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-27**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 55 (52 - 64) bpm
   BP: 124/68(81) {105/54(66) - 148/102(106)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,183 mL
                                                                    679 mL
   PO:
                                                                    720 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,164 mL
                                                                    199 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                  1,171 mL
                                                                  2,845 mL
   Urine:
                                                                  1,171 mL
                                                                  2,845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,012 mL
                                                                 -2,166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   GEN: Uncomfortable.
   HEENT:  R eye c newly developing ecchymosis
   PULM:  Mild crackles, poor excursion [**2-23**] discomfort.
   CV: Tachy, no M
   ABD: RUQ tenderness
   EXT: No edema
   NEURO: Oriented to hospital, year, president not month
 nor members of
   team he had met before.  Some tremor, past pointing, downgoing toes
   bilaterally, good motor function.
   Labs / Radiology
   10.8 g/dL
   151 K/uL
   128 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   19 mg/dL
   102 mEq/L
   133 mEq/L
   33.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
                             [**2156-9-26**]  07:44 AM
                             [**2156-9-26**]  03:51 PM
                             [**2156-9-27**]  03:23 AM
   WBC
   5.3
   6.0
   6.8
   Hct
   31.5
   32.8
   33.0
   Plt
   141
   134
   151
   Cr
   1.1
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   123
   128
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:324/5/<0.01, ALT / AST:38/53, Alk Phos / T Bili:120/2.1,
   Differential-Neuts:68.7 %, Lymph:22.8 %, Mono:8.1 %, Eos:0.3 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.7 g/dL, LDH:265 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Hypoxemia, respiratory distress, pulmonary edema:  new O2 requirement
   of 4L, had some pulmonary edema yesterday, with mild improvement today,
   though etiology unclear - [**Name (NI) **] unlikely given time course, no
   pharmacologic culprits, ? aspiration (although hasn't had problems) -
   did have some improvement with lasix - had puzzling CXR finding R base
   - PTX c fluid?  no h/o cardiac dysfunction.
   - Trial repeat diuresis
   - Non-contrast chest CT  ( may have small hemothorax, lung contusion)
   - TTE
   RUQ pain, rising LFTs, bili
   - RUQ U/S
 INTRACEREBRAL HEMORRHAGE (ICH)
   - Head CTs have been stable (need final read), neurosurgery has signed
   off.
   - Keppra 500mg PO bid
 SYNCOPE, known orthostatic hypotension, cardiac enzymes negative, on
   telemetry
   - In for carotid studies, TTE this admission
   - Holding nadolol for bradycardia
   Temporal bone fracture - needs to be cleared.
   HIV - on HAART, bactrim ppx - recheck CD4, viral load.
   ICU Care
   Nutrition:  Advancing diet to clear liquids
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Staying in unit.
   Total time spent:  35

2156-09-28 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: [**9-27**]
   - Neurosurg signed off- would like f/u CT and appt with Dr. [**Last Name (STitle) **] in 8
   weeks, and to keep Keppra 500 [**Hospital1 **]
   - discussed brusing under right eye with plastics, recommened first a
   dedicated CT for facial bones, if fracture to consult them
   - RUQ ultrasound with no acute hepatobiliary process
   - CT of chest with more prominent fracture of ribs on right and
   effusion vs cosolidation underlying this area of ribs in lower rt lung
   - SOB improved after lasix, nitro paste stopped
   - HIV labs sent
   - Na trended down to 131, started 2 liter fluid restriction, sent urine
   and serum osms, concern for SIADH starting due to head injury
 ULTRASOUND - At [**2156-9-27**] 11:50 AM
   RUQ
 EKG - At [**2156-9-28**] 06:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-27**] 10:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-28**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 51 (49 - 60) bpm
   BP: 123/77(88) {110/63(75) - 144/83(96)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,965 mL
                                                                     97 mL
   PO:
                                                                  1,600 mL
             TF:
   IVF:
                                                                    365 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  4,650 mL
                                                                    200 mL
   Urine:
                                                                  4,650 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,685 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   11.5 g/dL
   109 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   18 mg/dL
   99 mEq/L
   130 mEq/L
   34.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
                             [**2156-9-26**]  07:44 AM
                             [**2156-9-26**]  03:51 PM
                             [**2156-9-27**]  03:23 AM
                             [**2156-9-27**]  06:41 PM
                             [**2156-9-28**]  04:13 AM
   WBC
   5.3
   6.0
   6.8
   6.6
   Hct
   31.5
   32.8
   33.0
   34.2
   Plt
   141
   134
   151
   167
   Cr
   1.1
   1.0
   0.9
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   123
   128
   123
   109
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:324/5/<0.01, ALT / AST:31/50, Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:/12, Differential-Neuts:68.7 %, Lymph:22.8 %, Mono:8.1
   %, Eos:0.3 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL, LDH:265 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: Urine osm: 751
   Serum osm: 272
   Imaging:
   IMPRESSIONS:
   1. Right-sided rib fractures, as detailed, with associated small
   extrapleural
   hematoma.
   2. Small-to-moderate size right pleural effusion, and tiny left pleural
   effusion.
   3. Opacification of bilateral lower lobes, may reflect consolidation or
   aspiration with atelectasis.
   4. Patchy ground-glass opacities in the left upper [**Last Name (LF) 7516**], [**First Name3 (LF) **] reflect
   infectious/inflammatory change, or could reflect superimposed pulmonary
   edema.
   Assessment and Plan
 PULMONARY EDEMA
 INTRACEREBRAL HEMORRHAGE (ICH)
 SYNCOPE
   63 year old man with HIV, cryptogenic cirrhosis, hx of frequent syncope
   with an extensive workup and multiple falls presents after witnessed
   fall on street, found to have SDH, EDH on CT head.
   # Hypoxemia: 2 nights ago pt had respiratory distress and bilateral
   infiltrates on CXR, now more focused on left periphery. Unclear
   etiology. Differential includes pulm edema (responded to lasix
   yesterday) versus splinting from rib fx. O2 requirment now stable.
   - chest CT showed ? conslidations v pulm edema
   - continue to monitor sats
   - nitropaste prn, lasix prn
   - monitor I/O's
   - repeat CXR
   # Intracranial hemorrhage: No progression of bleed per imaging. Head CT
   now stable
   - Appreciate neuro recs
   - Q shift  neuro checks
   - ADAT
   - Bedrest
   - Continue keppra 500 [**Hospital1 **] for sz ppx
   # RUQ pain: concern for pumonary/rib pain vs galllbladder issue
   - RUQ ultrasound
   - chest CT
   - pain meds as needed
   # Syncope: Differential includes symptomatic bradycardia, orthostasis,
   mechanical fall. Difficult to separate these as pt currently does not
   remember fall and states that he was at home. Prior workups for syncope
   revealed abnormal tilt table testing (notable for orthostasis) as well
   as concern by neurology that pt has peripheral neuropathy as well as
   mechanical risk for syncope due to pain from right hip. Given pt's
   pulmonary hypertension on old ECHO, there is some concern for syncope
   secondary to pulmonary hypertension. Echo from [**3-29**] showed no evidence
   of valvular disease to provoke syncope.
   - repeat ECHO
   - Tele- no events
   - ROMI- negative
   - Hold nadolol as bradycardic o/n
   # Hyponatremia: Differential: hypovol hyponatremia versus SIADH
   secondary to ICH versus pulm etiol.
   Urine osm: 751
   Serum osm: 272
   - Add on urine sodium
   - Fluid restrict for now
   - Recheck Na at 1pm
   # Lactic acidosis: improved
   # Temporal bone Fracture: evaluate CT head
   - discuss with either ophtho vs plastics
   # ARF: Cr at 1.5 on admission, now at baseline 0.8. Likely prerenal as
   resolved with IVFs.
   # HIV:
   - Contine HAART
   - Continue bactrim for PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] recheck HIV labs
   # Psych meds:
   - hold psych meds to prevent sedation
   # CV risk: Hold all PO meds tonight. No ST changes on EKG, no CP.
   - Hold ASA given bleed
   - Restart lipitor
   - Hold nadolol if remains bradycardic
   # Chronic R hip pain: Restarted pain meds
   FEN: IVF, clears
   Prophylaxis: p boots
   Access: peripherals
   Code:  Full; [**Name (NI) 356**] [**Name (NI) **] brother, [**Telephone/Fax (1) 8099**]; cell [**Telephone/Fax (1) 8100**].
   [**First Name4 (NamePattern1) 8101**] [**Known lastname **] (other brother) [**Telephone/Fax (1) 8102**] (both notified)
   .
   Communication: Patient
   .
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-28 11:43:00 Physician Attending Progress Note
Chief Complaint: Trauma of unclear mechanism.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   SOB improved with lasix and nitro paste.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   bactrim, pantoprazole, lipitor, nitrogolycerine, ritonavir, etanavir,
   danuavir, keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-28**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 60 (51 - 60) bpm
   BP: 114/75(85) {110/63(75) - 144/83(96)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,965 mL
                                                                    215 mL
   PO:
                                                                  1,600 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  4,650 mL
                                                                    800 mL
   Urine:
                                                                  4,650 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,685 mL
                                                                   -586 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   167 K/uL
   109 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   18 mg/dL
   99 mEq/L
   130 mEq/L
   34.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
                             [**2156-9-26**]  07:44 AM
                             [**2156-9-26**]  03:51 PM
                             [**2156-9-27**]  03:23 AM
                             [**2156-9-27**]  06:41 PM
                             [**2156-9-28**]  04:13 AM
   WBC
   5.3
   6.0
   6.8
   6.6
   Hct
   31.5
   32.8
   33.0
   34.2
   Plt
   141
   134
   151
   167
   Cr
   1.1
   1.0
   0.9
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   123
   128
   123
   109
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:324/5/<0.01, ALT / AST:31/50, Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:/12, Differential-Neuts:68.7 %, Lymph:22.8 %, Mono:8.1
   %, Eos:0.3 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL, LDH:265 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Imaging: Chest CT right sided rib fracture with associated extrapleural
   hematoma, opacification of bilateral Lower lobes, atelectasis vs
   consolidation, LUL patchy infiltrate edema vs infection.
   Assessment and Plan
 Hypoxia:
   bilateral R>L infiltrates, Pulm edema vs aspiration vs atelectasis from
   splinting from rib fractures, also small-moderate right pleural
   effusion. Continue diuresis, no clinical signs of pneumonia, will have
   low threshold to start antibiotics given HIV. Encourgage cough, deep
   breathing. Contine oxycodone titrate to comfort.
 INTRACEREBRAL HEMORRHAGE (ICH)
   SDH, IPH, SAH. will discuss with neurosurgery and clear him for heparin
   s/c prophyl.
 SYNCOPE:
   hx of orthostatic hypotension, f/u echo, carotid duplex, also
   significant sinus bradycardia with sleep, home bblocker held. Holding
   home ativan Will contact PCP.
[**Name Initial (NameIs) **]: hypovolemic vs SIADH, Urine Osm high. will send urien
   lytes, free water restrict.
 Trauma: f/u facial CT
 HIV: continue home regimen f/u CD4 and viral load
   ICU Care
   Nutrition:
   Comments: advance po diet.
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Prophylaxis:
   DVT: Boots(discuss with neurosurg starting s/c heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2156-09-29 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-28**]
   - hep sub q
   - hairline R zygoma fx; plastics said non-op management
   - Carotid: Less than 40% stenosis of the bilateral extracranial
   internal carotid arteries.
   24 Hour Events:
 ULTRASOUND - At [**2156-9-28**] 09:00 AM
   Thyroid
 TRANSTHORACIC ECHO - At [**2156-9-28**] 11:13 AM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-29**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 60 (51 - 65) bpm
   BP: 126/78(90) {90/57(67) - 126/80(94)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,925 mL
                                                                     74 mL
   PO:
                                                                  1,100 mL
             TF:
   IVF:
                                                                    825 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                    380 mL
   Urine:
                                                                  2,530 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -606 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   GEN: awake
   HEENT: bruise under right eye
   CHEST: CTA, tender along right lower ribs laterally
   CV: no M, RRR, 2+ pulses
   ABD: soft, NT, ND, +BS
   EXT: no c/c/e
   Labs / Radiology
   197 K/uL
   11.7 g/dL
   150 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   13 mg/dL
   101 mEq/L
   134 mEq/L
   35.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
                             [**2156-9-26**]  07:44 AM
                             [**2156-9-26**]  03:51 PM
                             [**2156-9-27**]  03:23 AM
                             [**2156-9-27**]  06:41 PM
                             [**2156-9-28**]  04:13 AM
                             [**2156-9-29**]  05:25 AM
   WBC
   5.3
   6.0
   6.8
   6.6
   6.5
   Hct
   31.5
   32.8
   33.0
   34.2
   35.4
   Plt
   141
   134
   151
   167
   197
   Cr
   1.1
   1.0
   0.9
   0.8
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   123
   128
   123
   109
   150
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:324/5/<0.01, ALT / AST:31/50, Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:/12, Differential-Neuts:68.7 %, Lymph:22.8 %, Mono:8.1
   %, Eos:0.3 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL, LDH:265 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 INTRACEREBRAL HEMORRHAGE (ICH)
 SYNCOPE
   63 year old man with HIV, cryptogenic cirrhosis, hx of frequent syncope
   with an extensive workup and multiple falls presents after witnessed
   fall on street, found to have SDH, EDH on CT head.
   # Hypoxemia: 2 nights ago pt had respiratory distress and bilateral
   infiltrates on CXR, now more focused on left periphery. Unclear
   etiology. Differential includes pulm edema (responded to lasix
   yesterday) versus splinting from rib fx vs lung contusion. O2
   requirment now stable. Afebrile. Chest CT with likely contusion
   adjacent to rib fracture in right lower lung. No significant change on
   echo from [**3-29**] (no CHF).
   - continue to monitor sats
   - lasix prn
   - monitor I/O's
   # Intracranial hemorrhage: No progression of bleed per imaging. Head CT
   now stable
   - f/u with neuro as outpatient in 8weeks
   - ok to get OOB w/ assistance
   - Continue keppra 500 [**Hospital1 **] for sz ppx
   # RUQ pain: concern for pulmonary/rib pain. RUQ ultrasound without
   acute liver or gallbladder pathology
   - chest CT- lung contusion
   - pain meds as needed
   # Syncope: Differential includes symptomatic bradycardia, orthostasis,
   mechanical fall. Difficult to separate these as pt currently does not
   remember fall and states that he was at home. Prior workups for syncope
   revealed abnormal tilt table testing (notable for orthostasis) as well
   as concern by neurology that pt has peripheral neuropathy as well as
   mechanical risk for syncope due to pain from right hip. Given pt's
   pulmonary hypertension on old ECHO, there is some concern for syncope
   secondary to pulmonary hypertension. Echo from [**3-29**] showed no evidence
   of valvular disease to provoke syncope. Echo now shows no change, only
   borderline pulmonary hypertension.
   - Tele- no events
   - ROMI- negative
   - Hold nadolol as continues to be brady
   # Hyponatremia: Differential: hypovolemic hyponatremia versus SIADH
   secondary to ICH versus pulmonary etiology.  Na now corrected from 130
   to 134. Urine osm: 751, Serum osm: 272, Urine Na of 71. These labs are
   more consitent with SIADH.
   - Continue fluid restriction of 2 liters
   - monitor Na
   # Lactic acidosis: improved
   # Temporal bone Fracture: On facial CT scan, pt has hairline fracture
   of zygomatic bone, no surgery needed per plastics
   - pain medication as needed
   # ARF: Cr at 1.5 on admission, now resolved. Likely prerenal as
   resolved with IVFs.
   # HIV:
   - Contine HAART
   - Continue bactrim for PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] recheck HIV labs
   # Psych meds:
   - hold psych meds to prevent sedation
   # CV risk: No ST changes on EKG, no CP.
   - Hold ASA given bleed
   - Restart lipitor
   - Hold nadolol if remains bradycardic
   # Chronic R hip pain:
   - continue pain meds
   .
   Communication: Patient, [**Name (NI) 356**] [**Name (NI) **] brother, [**Telephone/Fax (1) 8099**]; cell [**Telephone/Fax (1) 8168**].  [**First Name4 (NamePattern1) 8101**] [**Known lastname **] (other brother) [**Telephone/Fax (1) 8102**] (both notified)
   ICU Care
   Nutrition: regular diet, 2 liter fluid restriction
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Prophylaxis:
   DVT: hep sq
   Code status: Full code
   Disposition: call out to floor today

2156-09-29 09:49:00 Physician Attending Progress Note
Chief Complaint: Syncope, polytrauma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Restarted on heparin s/c. Maxillofacial CT with hairline fracture of
   zygomatic bone on right.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-29**] 06:00 AM
   Other medications:
   colace, celexa, bactrim, pantoprazole, HAART, keppra, ativan,
   nortryptyline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-29**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 64 (54 - 65) bpm
   BP: 130/82(93) {90/57(67) - 130/82(94)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,925 mL
                                                                    455 mL
   PO:
                                                                  1,100 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    825 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                    660 mL
   Urine:
                                                                  2,530 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -606 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilaterally)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   11.7 g/dL
   197 K/uL
   150 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   13 mg/dL
   101 mEq/L
   134 mEq/L
   35.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2156-9-25**]  11:41 PM
                             [**2156-9-26**]  04:58 AM
                             [**2156-9-26**]  07:44 AM
                             [**2156-9-26**]  03:51 PM
                             [**2156-9-27**]  03:23 AM
                             [**2156-9-27**]  06:41 PM
                             [**2156-9-28**]  04:13 AM
                             [**2156-9-29**]  05:25 AM
   WBC
   5.3
   6.0
   6.8
   6.6
   6.5
   Hct
   31.5
   32.8
   33.0
   34.2
   35.4
   Plt
   141
   134
   151
   167
   197
   Cr
   1.1
   1.0
   0.9
   0.8
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   123
   128
   123
   109
   150
   Other labs: PT / PTT / INR:14.5/31.2/1.3, CK / CKMB /
   Troponin-T:324/5/<0.01, ALT / AST:31/50, Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:/12, Differential-Neuts:68.7 %, Lymph:22.8 %, Mono:8.1
   %, Eos:0.3 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL, LDH:265 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: CD4 184, VL undetectable
   Assessment and Plan
 PULMONARY EDEMA/pulmonary contusion/? hemothorax
   autodiuresing, off O2, however still with atelectasis on pulmonary
   exam.. encourage incentive spirometer use, cough and deep breathing. no
   signs of infection.
 INTRACEREBRAL HEMORRHAGE (ICH):
   Stable neuroexam.
 SYNCOPE:
   appreciate PCP's input.. bblocker on hold due to bradycardia, will
   likely be discharged with event monitor, will stop ativan, measure
   orthostatics for history of orthostatic hypotension. Consult PT. Dr [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) 8179**] to see when stable regarding orthostatic hypotension
Hyponatremia:
   resolved
   ICU Care
   Nutrition:
   Comments: regular diet, stop fluid restriction
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-25**] 09:30 PM
   18 Gauge - [**2156-9-25**] 09:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 mins